US07560551B2
Synthesis of 6-(3-Bromopyridin-2-yloxy)pyridin-3-amine
3-Bromo-2-chloropyridine (7.27 g, 37.8 mmol), 5-aminopyridin-2-ol (4.99 g, 45.3 mmol), freshly ground cesium carbonate (36.9 g, 113 mmol), and DMSO (37.8 ml, 37.8 mmol) were added into a glass round bottom pressure vessel equipped with a stir bar. The vessel was sealed and placed in a preheated oil bath at 130° C. After 18 h, the reaction was diluted with EtOAc (4×250 mL) and the whole solution was sonicated. After the solid was settled, the top solution was decanted through a pad of celite and silica gel (each layer was 1 cm). This procedure was repeated for the salt residue which left in the flask to remove the product and DMSO from the salt. The filtrate was concentrated to give an oil which included the product and DMSO. The product was extracted with EtOAc (3×300 mL) and DCM (1×100 mL). The EtOAc and DCM layers were washed separately with a minimum amount of brine. The organic phases were dried separately over a minimum amount of MgSO4. The MgSO4 was filtered off and the filtrates were combined and concentrated. A wet, light green solid was obtained. The solid was triturated with hexanes. The solid was filtered off, collected, and dried under vacuum. The product, 6-(3-bromopyridin-2-yloxy)pyridin-3-amine was collected as tan solids. A second batch was obtained from the filtrate. The filtrate was concentrated to give an oil. The oil was purified by ISCO column chromatography using 90:10 DCM:(90:10:1 DCM:MeOH:NH4OH). A light yellow solid, was obtained, dried under vacuum, and given a sample ID: A wet, green solid was obtained, dried under vacuum. MS Calcd for C10H8BrN3O: [M]+=265. Found [M+1]+=266.

reactant | 3-Bromo-2-chloropyridine | 37.8 mmol, 7.27 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | 5-aminopyridin-2-ol | 45.3 mmol, 4.99 g | NC=1C=CC(=NC1)O | C5H6N2O
reactant | cesium carbonate | 113 mmol, 36.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 37.8 mmol, 37.8 ml | CS(=O)C | C2H6OS
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 6-(3-Bromopyridin-2-yloxy)pyridin-3-amine | BrC=1C(=NC=CC1)OC1=CC=C(C=N1)N | C10H8BrN3O
